US04137397
An aldobiose such as lactose or maltose, is electrolytically oxidised in the presence of the alkali metal carbonates/bicarbonates and alkali bromides to obtain the solution of alkali metal lactobionate, maltobionate, etc. The resulting solution is concentrated under reduced pressure to a thin syrup from which the salt is precipitated by adding 95% ethyl alcohol or isopropyl alcohol. The crude salt is dissolved in a minimum amount of hot water and then filtered through decolorizing carbon and the salt recrystallized by adding a suitable amount of the desired alcohol. The process is repeated 3-4 times to get the desired alkali salt in the pure state.

reactant | lactose | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
reactant | maltose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@H]([C@@H]([C@H]2O)O)O)CO)O)O)O)O | C12H22O11
product | maltobionate | C([C@@H]1[C@H]([C@@H]([C@H]([C@@H](O1)O[C@H]([C@@H](CO)O)[C@@H]([C@H](C(=O)O)O)O)O)O)O)O | C12H22O12
